US05939422
96.3 g (366 mmoles) of benzylisothiocyanate were dissolved in 100 ml of THF and treated with 44.2 ml (732 mmoles) of 32% ammonia solution. After 0.5 hour at 40-45° C., 300 ml of water were added and the THF removed in vacuo. The gummy suspension is treated with 200 ml of ether, the crystals collected and washed with water and ether. Suspension in 30 ml of methylenechloride and collection gave 65.77 g (64.2%) of benzyl-2-thiourea with mp 144-5° C.

reactant | benzylisothiocyanate | 366 mmoles, 96.3 g | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | ammonia | 732 mmoles, 44.2 ml | N | H3N
reactant | water | 300 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | benzyl-2-thiourea | 65.77 g, 64.2% | C(C1=CC=CC=C1)NC(=S)N | C8H10N2S
